US05770378
To a solution of trimethyl phosphonoacetate (5.68 g, 31 mmol) in THF (15 ml) was added dropwise nBuLi (9.3 ml, 2.5 M, 23 mM) at 0° C., and the resulting solution was stirred at that temperature for 30 min. 3,4,5,6,7,8-hexahydro-5,5,8,8-tetramethyl-2H-anthracen-1-one (2.0 g, 7.8 mmol) in THF (10 ml) was added at 25° C., and the mixture was stirred at that temperature for 30 min. Standard work-up procedures as detailed in Example 1, followed by purification of the product by column chromatography (10% ether in hexane) gave methyl (3,4,5,6,7,8-hexahydro-5,5,8,8-tetramethylanthracen-1-yl)acetate (1.33 g, 55%): 1H NMR (400 MHz, CDCl3) δ 7.15 (s, 1H, ArH), 7.04 (s, 1H, ArH), 5.94 (br t, 1H, olefinic), 3.68 (s, 2H, OCH3), 3.43 (s, 2H, CH2), 2.74 (t, J=7.9 Hz, 2H, CH2, benzylic), 2.31 (m, CH2, 2H, allylic), 1.66 (s, 4H, 2CH2), 1.27 (s, 12H, 4CH3).

reactant | trimethyl phosphonoacetate | 31 mmol, 5.68 g | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | nBuLi | 2.5 M, 9.3 ml | [Li]CCCC
reactant | 3,4,5,6,7,8-hexahydro-5,5,8,8-tetramethyl-2H-anthracen-1-one | 7.8 mmol, 2.0 g | CC1(C=2C=C3CCCC(C3=CC2C(CC1)(C)C)=O)C | C18H24O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | methyl (3,4,5,6,7,8-hexahydro-5,5,8,8-tetramethylanthracen-1-yl)acetate | 1.33 g, 55% | CC1(C=2C=C3CCC=C(C3=CC2C(CC1)(C)C)CC(=O)OC)C | C21H28O2
